US07262297B2
A mixture of 3-(2-bromo-phenyl)-propionic acid (458 mg, 2.0 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl](558 mg, 2.20 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) (132 mg, 0.18 mmol), and potassium acetate (589 mg, 6.0 mmol) was heated to 95° C. for 2 d. The resulting mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium chloride solution, filtered through a pad of silca gel and sodium sulfate, and concentrated in vacuo to afford 3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid. A solution of 6-iodo-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine (prepared as in Example 1, 100 mg, 0.31 mmol), 3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid (102 mg, 0.37 mmol), tetrakis(triphenylphosphine)palladium(o) (71 mg, 0.06 mmol) in a 2.0M aqueous sodium carbonate solution (0.5 mL), ethanol (1.5 mL), and ethylene glycol dimethyl ether (1.5 mL) was heated to 95° C. for 18 h. The resulting mixture was cooled to 25° C., dissolved in methanol and tetrahydrofuran, and filtered through a pad of silica gel and sodium sulfate. The filtrate was concentrated in vacuo. HPLC purification (Shimadzu HPLC, ODSA column from Medchem, 2×10 cm, 10 micro, 10-90% CH3CN/H2O with 0.1% TFA.) afforded 3-[2-(1,3-diamino-7H-pyrrolo[3,2-f]quinazolin-6-yl)-phenyl]-propionic acid (12.5 mg, 12.1%); LRMS for C19H17N5O2 (M+H)+ at m/z=348.

reactant | 3-(2-bromo-phenyl)-propionic acid | 2.0 mmol, 458 mg | BrC1=C(C=CC=C1)CCC(=O)O | C9H9BrO2
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 2.20 mmol, 558 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 6.0 mmol, 589 mg | C(C)(=O)[O-].[K+]
solvent | water | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.18 mmol, 132 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid | CC1(OB(OC1(C)C)C1=C(C=CC=C1)CCC(=O)O)C | C15H21BO4
